US07723330B2
Step B: Preparation of 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one:
To a solution of 5-bromo-2-chloropyrimidin-4(3H)-one (1.00 g, 4.78 mmol) in DME (12 mL)/DMF (3 mL) under N2 at 0° C. was added LiH (0.044 g, 5.25 mmol), and the reaction mixture was stirred for 15 minutes at room temperature. Iodomethane (0.589 mL, 9.45 mmol) was then added and the reaction mixture was stirred at room temperature for 30 minutes and then at 60° C. for 1.5 hours. The reaction mixture was quenched with H2O and then partitioned between EtOAc and saturated aqueous NaCl. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude yellow oil. The crude product was purified by flash column chromatography, eluting with 25:1 dichloromethane/EtOAc. The desired product (0.764 g, 72%) was obtained as a yellow crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ 8.26 (s, 1H), 3.59 (s, 3H). LRMS (ESI pos) m/e 223, 225 (M+1, Br pattern).

reactant | 5-bromo-2-chloropyrimidin-4(3H)-one | 4.78 mmol, 1.00 g | BrC=1C(NC(=NC1)Cl)=O | C4H2BrClN2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | LiH | 5.25 mmol, 0.044 g | [H-].[Li+]
reactant | Iodomethane | 9.45 mmol, 0.589 mL | IC | CH3I
solvent | DME | 12 mL | COCCOC | C4H10O2
product | 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one | 0.764 g, 72% | BrC=1C(N(C(=NC1)Cl)C)=O | C5H4BrClN2O
